* C:\Users\Administrator\Documents\Schem_crkt_1074.asc
* Generated by LTspice 26.0.2 for Windows.
R3 N003 VC 2K
R2 FB 0 2.21K
R1 OUT FB 2.8K
L1 SW OUT 50µ
D1 0 SW MBRS140
C1 IN 0 470µ Rser=0.05
C2 OUT 0 330µ Rser=0.07
V1 VIN_SRC 0 20 Rser=0.02
C3 VC 0 .1µ
X§U1 IN SW N002 0 FB N003 N001 LT1074 ;§pnba Vin)SW)Ilim)GND)FB)Vc)_SHDN
Rload OUT_FILT 0 {RLOAD}
RFILT OUT_FILT OUT 0.1
CFILT OUT_FILT 0 100µ
R4 IN VIN_SRC 0.1
.model D D
.lib C:\Users\Administrator\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 2m startup
.param RLOAD=5
.step param RLOAD list 5 10 20
.meas tran OUT_AVG AVG V(OUT) FROM=1.5m TO=2.0m
.meas tran OUT_MAX MAX V(OUT) FROM=1.5m TO=2.0m
.meas tran OUT_MIN MIN V(OUT) FROM=1.5m TO=2.0m
.meas tran OUT_RIPPLE_PP PARAM='OUT_MAX-OUT_MIN'
.meas tran ILOAD_AVG AVG (V(OUT)/{RLOAD}) FROM=1.5m TO=2.0m
.meas tran T_SETTLE WHEN V(OUT)=4.8 RISE=1
.meas tran TSW TRIG V(SW) VAL=10 RISE=1 TD=1.5m TARG V(SW) VAL=10 RISE=2 TD=1.5m
.meas tran FSW_MEAS PARAM='1/TSW'
.meas tran OUT_FILT_AVG AVG V(OUT_FILT) FROM=1.5m TO=2.0m
.meas tran OUT_FILT_MAX MAX V(OUT_FILT) FROM=1.5m TO=2.0m
.meas tran OUT_FILT_MIN MIN V(OUT_FILT) FROM=1.5m TO=2.0m
.meas tran OUT_FILT_RIPPLE_PP PARAM='OUT_FILT_MAX-OUT_FILT_MIN'
.meas tran VIN_SRC_AVG AVG V(VIN_SRC) FROM=1.5m TO=2.0m
.meas tran IN_AVG AVG V(IN) FROM=1.5m TO=2.0m
.meas tran IN_MAX MAX V(IN) FROM=1.5m TO=2.0m
.meas tran IN_MIN MIN V(IN) FROM=1.5m TO=2.0m
.meas tran VIN_DROOP_AVG PARAM='VIN_SRC_AVG-IN_AVG'
.meas tran IN_RIPPLE_PP PARAM='IN_MAX-IN_MIN'
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\Administrator\AppData\Local\LTspice\lib\sym\PowerProducts\LT1074.asy)
.lib LT1074.sub
.backanno
.end
