* C:\Users\Administrator\Desktop\da636372-2fe8-4984-b35e-be6bc09d6a2b\Low_Pass.asc
* Generated by LTspice 26.0.2 for Windows.
L1 OUT_RL IN 15.915µ Rser=1m
R1 0 OUT_RL 1
L2 OUT_LC IN 15.915µ Rser=1m
C1 OUT_LC 0 15.915µ
R2 OUT_LC 0 1
L3 OUT_DAMP IN {L_val} Rser=1m
C2 OUT_DAMP 0 {C_val}
R3 OUT_DAMP 0 {R_val}
C3 SNUB OUT_DAMP 47µ
R4 SNUB 0 1
V1 IN 0 PULSE(0 5 0 50n 50n 5u 10u) AC 1
.step param L_val list 12.73u 15.915u 19.1u
.step param C_val list 12.73u 15.915u 19.1u
.step param R_val list 0.8 1 1.2
.ac dec 500 10 10Meg
.backanno
.end
