* Qucs 26.1.0  C:/Users/Administrator/Desktop/c8d4b8de-a3ad-41bf-af83-d12d6991a284/C-V_Converter_prj/C-V_Converter.sch
.INCLUDE "C:/Program Files/Qucs-S/share/qucs-s/xspice_cmlib/include/ngspice_mathfunc.inc"
.PARAM y = 1
.PARAM Cval = 1n
Rf summing_node Vout  1MEG tc1=0.0 tc2=0.0 
Cf summing_node Vout  10P 
RL 0 Vout  10K tc1=0.0 tc2=0.0 
B_OP1 Vout 0 V = 1E6*V(0,summing_node)*u(15-1E6*V(0,summing_node))*u(1E6*V(0,summing_node)-(-15))+15*u(1E6*V(0,summing_node)-15)+(-15)*u((-15)-1E6*V(0,summing_node))
C2 Vin summing_node  {CVAL} 
Vin Vin  0 PWL(0 0 2 10 2.5 10)

.control

option interp
let number_c2 = 0
echo "STEP tr1.c2" > spice4qucs.tr1.cir.res
foreach  c2_act 1n  10n  50n  100n  250n  500n  750n  1u 
alter C2 = $c2_act
tran 0.0125628 2.5 0 
write spice4qucs.tr1._swp.plot v(Vin) v(Vout) v(summing_node)
set appendwrite
echo "$&number_c2  $c2_act" >> spice4qucs.tr1.cir.res
let number_c2 = number_c2 + 1
end
unset appendwrite
destroy all
reset

exit
.endc
.END
