* Qucs 26.1.0  C:/Users/Administrator/Desktop/67ca13c7-beba-4d48-86b5-6cbbd4c5b63b/Multiple‑Feedback Bandpass Filter_prj/Bandpass Filter.sch
.INCLUDE "C:/Program Files/Qucs-S/share/qucs-s/xspice_cmlib/include/ngspice_mathfunc.inc"
B_OP1 Out 0 V = 1E6*V(0,_net1)*u(15-1E6*V(0,_net1))*u(1E6*V(0,_net1)-(-15))+15*u(1E6*V(0,_net1)-15)+(-15)*u((-15)-1E6*V(0,_net1))
V1 _net2 0 DC 0 SIN(0 1 1K 0 0 0) AC 1 ACPHASE 0
R1 _net2 _net0  6.8K tc1=0.0 tc2=0.0 
R2 _net1 Out  150K tc1=0.0 tc2=0.0 
R3 0 _net0  2.2K tc1=0.0 tc2=0.0 
C1 _net0 _net1  10N 
C2 _net0 Out  10N 

.control

option interp
let number_r2 = 0
echo "STEP ac1.r2" > spice4qucs.ac1.cir.res
foreach  r2_act 135000 136579 138158 139737 141316 142895 144474 146053 147632 149211 150789 152368 153947 155526 157105 158684 160263 161842 163421 165000 
alter R2 = $r2_act
ac dec 25 10 100k 
let Gain_dB=20*log10(abs(v(Out)))
let Phase_deg=phase(v(Out))
write spice4qucs.ac1._swp.plot v(Out) Gain_dB Phase_deg
set appendwrite
echo "$&number_r2  $r2_act" >> spice4qucs.ac1.cir.res
let number_r2 = number_r2 + 1
end
unset appendwrite
destroy all
reset

exit
.endc
.END
