* Qucs 26.1.0  C:/Users/Administrator/Desktop/e55fe98d-9c2d-4d3d-b078-a187ffb0b17a/rlc_bandstop_prj/rlc_bandstop_qucs.sch
.INCLUDE "C:/Program Files/Qucs-S/share/qucs-s/xspice_cmlib/include/ngspice_mathfunc.inc"
.PARAM y=1
V1 VIN 0 DC 0 SIN(0 1 1K 0 0 0) AC 1 ACPHASE 0
R1 VIN VOUT  50 tc1=0.0 tc2=0.0 
L1 VOUT LC_BRANCH  10M 
C1 0 LC_BRANCH  100N 
RLoad 0 VOUT  1K tc1=0.0 tc2=0.0 

.control

let y=1
ac dec 100 100 100k 
let Gain_dB=20*log10(abs(V(VOUT)))
write spice4qucs.ac1.plot v(LC_BRANCH) v(VIN) v(VOUT) Gain_dB
destroy all
reset

exit
.endc
.END
