* C:\Users\Administrator\Desktop\543112ed-610f-47ed-8382-6cc7182d5489\mems_pressure_bridge_readout.asc
* Generated by LTspice 26.0.2 for Windows.
R1 VDD BRIDGE_P R={5k * (1 - 0.01*PRESSURE)}
R2 VDD BRIDGE_N R={5k * (1 + 0.01*PRESSURE)}
R3 BRIDGE_P 0 R={5k * (1 + 0.01*PRESSURE)}
R4 BRIDGE_N 0 R={5k * (1 - 0.01*PRESSURE)}
V1 VDD 0 3.3
B1 VDIFF 0 V=V(BRIDGE_P)-V(BRIDGE_N)
B2 VOUT 0 V=1.65 + 50*V(VDIFF)
* VDIFF Generator
* Ideal Gain Block
.step param PRESSURE 0 1 0.5
.op
.backanno
.end
